US08133882B2
To a 2.9 ml dioxane solution of tert-butyl (2-{[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-2-oxoethyl)carbamate was added 3.0 ml of a 4M hydrogen chloride dioxane solution, followed by overnight stirring at room temperature. The insoluble materials were collected by filtration to obtain 550 mg of 2-amino-N-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acetamide hydrochloride.

reactant | tert-butyl (2-{[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-2-oxoethyl)carbamate | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)NC(CNC(OC(C)(C)C)=O)=O)=O)F | C27H39FN4O4
reactant | hydrogen chloride dioxane | 4M | O1CCOCC1.Cl
solvent | dioxane | 2.9 ml | O1CCOCC1 | C4H8O2
product | 2-amino-N-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acetamide hydrochloride | 550 mg | Cl.NCC(=O)NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | InChI=1S/C22H31FN4O2.ClH/c1-3-15(4-2)27-13-19(26-21(28)12-24)22(29)16-10-17(23)18(11-20(16)27)25-14-8-6-5-7-9-14;/h10-11,13-15,25H,3-9,12,24H2,1-2H3,(H,26,28);1H
